US06545161B2
Preparation of 4-chloro-3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-5-trifluoromethyl-1H-pyrazole (Compound no. 7-2)
4-Chloro-3-(4-chloro-6-fluoro-3-methoxy-2-nitrophenyl)-1-methyl-5-trifluoromethyl-1H-pyrazole (0.48 g, 1.24 mmol) was dissolved in toluene (8 ml) and 0.05 g of 10% palladium on carbon was added. The solution was vigorously stirred under hydrogen atmosphere for 4 hr at ambient temperature and the catalyst was removed by filtration. Removal of the solvent afforded a residue which was chromatographed on silica gel. Elution of the column with hexanemethylene chloride (3:7) furnished the title compound (0.38 g).

reactant | 4-Chloro-3-(4-chloro-6-fluoro-3-methoxy-2-nitrophenyl)-1-methyl-5-trifluoromethyl-1H-pyrazole | 1.24 mmol, 0.48 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C(=C(C=C1F)Cl)OC)[N+](=O)[O-] | C12H7Cl2F4N3O3
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | 4-chloro-3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-5-trifluoromethyl-1H-pyrazole | 0.38 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C(=C(C=C1F)Cl)OC)N | C12H9Cl2F4N3O
